US07217723B2
1-(4-Fluoro benzyl)cyclopropylamine
To a solution of 4-fluorophenyl acetonitrile (2.7 g) in tetrahydrofuran (40 mL) was added tetraisopropoxy titanium (6.5 mL), whereafter a solution of 1.0M magnesium ethylbromide-tetrahydrofuran (40 mL) was added dropwise over 30 minutes, and stirred for 1 hour. After adding a trifluoroborane-diethyl ether complex (50.1 mL) over 20 minutes, the solution was further stirred for 1 hour. The reaction solution was cooled with ice water, an aqueous solution of 5N sodium hydroxide (20 mL) was added, and stirred at room temperature for 20 minutes. After diluting with water and diethyl ether, and filtration using Celite was carried out. The organic layer was separated, washed with saturated sodium chloride water, and then dried with anhydrous sodium sulfate. After the solvent was evaporated at reduced pressure, filtration was carried out using a small amount of NH-silica gel, and washing was carried out with ethyl acetate. The residue that was obtained upon removing the solvent by evaporation was purified by NAM silica gel column chromatography (dichloromethane/methanol), and the title compound (0.75 g) was obtained as a yellow oily substance.

reactant | 4-fluorophenyl acetonitrile | 2.7 g | FC1=CC=C(C=C1)CC#N | C8H6FN
reactant | magnesium ethylbromide tetrahydrofuran | 1.0M, 40 mL | C(C)Br.[Mg].O1CCCC1
reactant | sodium hydroxide | 5N, 20 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | tetraisopropoxy titanium | 6.5 mL | C(C)(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | 1-(4-Fluoro benzyl)cyclopropylamine | 0.75 g | FC1=CC=C(CC2(CC2)N)C=C1 | C10H12FN
